US06133258
The reaction procedure of Example 11 was followed except that 2.681 g (9.25 mmol) of 2-(4-chloroanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one, 162 mg of lithium hydride, 1.50 g of 3-methoxybenzyl chloride and 40 ml of DMF were used. The resulting residue was then purified through silica gel column chromatography (eluant: chloroform). As a result, 2.288 of 2-[N-(4-chlorophenylimino)-2,3-dihydro-4H-3-(3-methoxybenzyl)pyrido[3,2-e]-1,3-thiazin-4-one (recrystallized from ethanol) was obtained as a low polarity substance, and 843 mg of 2-[N-(4-chlorophenyl)-N-(3-methoxybenzyl)amino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one (recrystallized from a mixture of ethyl acetate and diisopropyl ether) was obtained as a high polarity substance.

reactant | 2-(4-chloroanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 9.25 mmol, 2.681 g | ClC1=CC=C(NC=2SC3=C(C(N2)=O)C=CC=N3)C=C1 | C13H8ClN3OS
reactant | lithium hydride | 162 mg | [H-].[Li+]
reactant | 3-methoxybenzyl chloride | 1.50 g | COC=1C=C(CCl)C=CC1 | C8H9ClO
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 2-[N-(4-chlorophenyl)-N-(3-methoxybenzyl)amino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 843 mg | ClC1=CC=C(C=C1)N(CC1=CC(=CC=C1)OC)C=1SC2=C(C(N1)=O)C=CC=N2 | C21H16ClN3O2S
